US03946022
A mixture of 15 g (0.028 mole) of 4'-tert-butyl-5-[4-(α-hydroxy-α-phenylbenzyl)piperidino]valerophenone hydrochloride and 15 g of hydroxylamine hydrochloride in 120 ml of pyridine in heated on a steam bath for about 5 hours after which the pyridine is removed at reduced pressure. The remaining residue is dissolved in methanol and added to excess iced 10% HCl. The resulting solid is filtered, washed with water, and recrystallized from isopropyl alcohol to give 4'-tert-butyl-5-[4-(α-hydroxy-α-phenylbenzyl)piperidino]valerophenone oxime hydrochloride.

reactant | 4'-tert-butyl-5-[4-(α-hydroxy-α-phenylbenzyl)piperidino]valerophenone hydrochloride | 0.028 mole, 15 g | Cl.C(C)(C)(C)C1=CC=C(C=C1)C(CCCCN1CCC(CC1)C(C1=CC=CC=C1)(C1=CC=CC=C1)O)=O
reactant | hydroxylamine hydrochloride | 15 g | Cl.NO
solvent | pyridine | 120 ml | N1=CC=CC=C1 | C5H5N
product | 4'-tert-butyl-5-[4-(α-hydroxy-α-phenylbenzyl)piperidino]valerophenone oxime hydrochloride | Cl.C(C)(C)(C)C1=CC=C(C=C1)C(CCCCN1CCC(CC1)C(C1=CC=CC=C1)(C1=CC=CC=C1)O)=NO | InChI=1S/C33H42N2O2.ClH/c1-32(2,3)27-19-17-26(18-20-27)31(34-37)16-10-11-23-35-24-21-30(22-25-35)33(36,28-12-6-4-7-13-28)29-14-8-5-9-15-29;/h4-9,12-15,17-20,30,36-37H,10-11,16,21-25H2,1-3H3;1H
